US08980913B2
Step 1: (3-Methoxyphenyl)(phenyl)methanone
To a mixture of phosphorus pentachloride (3763 g, 18.1 mol) in 7500 mL of benzene, 3-methoxy benzoic acid (2500 g, 16.4 mol) was added in portions. The mixture was stirred for 50 minutes until it became homogenous. The formation of the acid chloride was controlled by TLC. After completion, the mixture was cooled down to 10° C., the reactor was covered with aluminum foil and aluminium trichloride (4820 g, 36.1 mol) was added in portions (internal temperature was held up to 30° C. maximum). Stirring was continued for 18 hours at RT. The reaction was monitored by TLC (AcOEt:hex 1:9). After completion, the reaction mixture was poured into ice and was diluted with AcOEt (7 L). The organic layer was then separated and the aqueous layer was extracted with AcOEt (2×10 L, 1×6 L). The combined organic layers were washed with water (5×3 L) to pH-6-7, saturated aqueous sodium hydrogen carbonate solution (15 L), dried (sodium sulfate), filtered and the solvent evaporated at reduced pressure to give a crude oil. The product was purified by vacuum distillation (130-139° C., 2 mbar) to obtain the title compound as a (2637 g, 76%) pale yellow oil.

reactant | phosphorus pentachloride | 18.1 mol, 3763 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 3-methoxy benzoic acid | 16.4 mol, 2500 g | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | aluminum | [Al] | Al
reactant | aluminium trichloride | 36.1 mol, 4820 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | benzene | 7500 mL | C1=CC=CC=C1 | C6H6
solvent | AcOEt | 7 L | CCOC(=O)C | C4H8O2
product | (3-Methoxyphenyl)(phenyl)methanone | COC=1C=C(C=CC1)C(=O)C1=CC=CC=C1 | C14H12O2
